US08053438B2
STEP 2: 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-OL
To a solution of 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol (0.1 g, 0.505 mmol) in DMSO (1 mL) was added 4-(benzo[d]thiazol-2-ylamino)phenol (0.183 g, 0.757 mmol) and cesium carbonate (0.329 g, 1.009 mmol). The resulting mixture was heated to 80° C. overnight. Reaction mixture was diluted with DCM and washed with alternating washes of water and brine to remove DMSO. Purification by Biotage (0-10% MeOH/DCM) produced product. MS (ESI, pos. ion) m/z: 421.1 (M+1). IC50 (uM) +++++.

reactant | 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol | 0.505 mmol, 0.1 g | FC=1C(=NC=CN1)C1(CCOCC1)O | C9H11FN2O2
reactant | 4-(benzo[d]thiazol-2-ylamino)phenol | 0.757 mmol, 0.183 g | S1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)O | C13H10N2OS
reactant | cesium carbonate | 1.009 mmol, 0.329 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(3-(4-(BENZO[D]THIAZOL-2-YLAMINO)PHENOXY)PYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-OL | S1C(=NC2=C1C=CC=C2)NC2=CC=C(OC=1C(=NC=CN1)C1(CCOCC1)O)C=C2 | C22H20N4O3S
